US06090941
A solution of diethyl N-(4-((3-amino-1,2-dihydro-1-oxobenzo[f]-quinazolin-7-yl)amino)benzoyl)-L-glutamate (31 mg, 0.056 mmol) in ethanol (1 ml) and 0.25N NaOH (4 ml) was stirred under nitrogen at room temperature for 3 hours. The solution was then acidified to pH 3 with 1N hydrochloric acid and the resulting suspension allowed to stir for 15 minutes. The solid was filtered, washed with water, and dried under high vacuum to give N-(4-((3-amino-1,2-dihydro-1-oxobenzo[f]-quinazolin-7-yl)amino)benzoyl)-L-glutamic acid (27 mg). 1H NMR (DMSO-d6, 200 MHz) δ: 1.79-2.16 (m, 2H, glu CH2 ), 2.32 (t, J=7 Hz, 2H, glu CH2), 4.27-4.41 (m, 1H, glu CH), 6.55 (br s, 2H, NH2), 6.85 (d, J=9 Hz, 2H, Ar), 7.27 (d, J=9 Hz, 1H, Ar), 7.34 (d, J=7 Hz, 1H, Ar), 7.55 (t, J=8 Hz, 1H, Ar), 7.72 (d, J=9 Hz, 2H, Ar), 8.16 (d, J=9 Hz, 1H, Ar), 8.24 (d, J=8 Hz, 1H, glu NH), 8.62 (s, 1H, C7 --NH), 9.45 (d, J=9 Hz, 1H, Ar), 11.13 (br s, 1H, N2H), 12.31 (br s, 2H, CO2H's). Anal. Calculated for C24H21N5O6.5/4H2O: C, 57.89; H, 4.76; N, 14.06. Found: C, 57.93; H, 4.73; N 13.99.

reactant | diethyl N-(4-((3-amino-1,2-dihydro-1-oxobenzo[f]-quinazolin-7-yl)amino)benzoyl)-L-glutamate | 0.056 mmol, 31 mg | NC1=NC=2C=CC3=C(C2C(N1)=O)C=CC=C3NC3=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3 | C28H29N5O6
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | NaOH | 0.25N, 4 ml | [OH-].[Na+]
product | N-(4-((3-amino-1,2-dihydro-1-oxobenzo[f]-quinazolin-7-yl)amino)benzoyl)-L-glutamic acid | 27 mg | NC1=NC=2C=CC3=C(C2C(N1)=O)C=CC=C3NC3=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C3 | C24H21N5O6
